US08039469B2
To a stirred solution of triphosgene (140 mg, 0.47 mmol) in CH2Cl2 (6 mL) was added 4-[4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenylamine (200 mg, 0.59 mmol) at 25° C. The reaction mixture was stirred for 15 min and 4-aminopyridine (166 mg, 1.77 mmol) and NEt3 (814 μL, 5.89 mmol) were added and the reaction mixture was stirred for additional 1 hr. The solvents were distilled and the crude mixture was purified by semi-prep-HPLC (TFA-method) to give 1-{4-[4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenyl}-3-pyridin-4-yl-urea (75 mg, 22% yield); MS (ESI) m/z 460

reactant | triphosgene | 0.47 mmol, 140 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-[4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenylamine | 0.59 mmol, 200 mg | O1CCC(=CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)N | C18H21N5O2
reactant | 4-aminopyridine | 1.77 mmol, 166 mg | NC1=CC=NC=C1 | C5H6N2
reactant | NEt3 | 5.89 mmol, 814 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[4-(3,6-dihydro-2H-pyran-4-yl)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenyl}-3-pyridin-4-yl-urea | 75 mg, 22% yield | O1CCC(=CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=NC=C1 | C24H25N7O3
